US06743791B2
4-(5-Methoxymethyl-2-phenylamino-pyrimidin-4-yl)-1H-pyrrole-2-carboxylic acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide (III-a-164)
4-(3-Dimethylamino-2-methoxymethyl-acryloyl)-1H-pyrrole-2-carboxylic acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide (0.27 mmol) was combined with phenyl guanidine (73 mg) in N,N-dimethylacetamide (2 mL) and the resulting suspension was heated at 90° C. for 35 hours. The reaction mixture was diluted with ethyl acetate, washed with saturated NaHCO3 and brine, dried over MgSO4 and concentrated in vacuo. The crude product was purified by prep HPLC (Gilson: Column=CombiHT SB-C189 5 μM, 21.2 mm×100 mm, eluent=0.1% TFA MeCN/H2O gradient) to afford III-a-164 as a yellow solid (3.2 mg). LC/MS(m/z) 444.16 (M+1), 442.19 (M−1); HPLC Method B, Rt=5.16 minutes: 1H NMR consistent with structure.

reactant | 4-(3-Dimethylamino-2-methoxymethyl-acryloyl)-1H-pyrrole-2-carboxylic acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide | 0.27 mmol | OC[C@H](C1=CC=CC=C1)NC(=O)C=1NC=C(C1)C(C(=CN(C)C)COC)=O | C20H25N3O4
reactant | phenyl guanidine | 73 mg | C1(=CC=CC=C1)NC(=N)N | C7H9N3
solvent | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(5-Methoxymethyl-2-phenylamino-pyrimidin-4-yl)-1H-pyrrole-2-carboxylic acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide | 3.2 mg | OC[C@H](C1=CC=CC=C1)NC(=O)C=1NC=C(C1)C1=NC(=NC=C1COC)NC1=CC=CC=C1 | C25H25N5O3
